US05504082
2-((3-Methyl-4-(3-aminopropylthio)-2-pyridyl)methylthio)-1H-benzimidazole (2.0 g) was dissolved in dimethylformamide (20 ml) and thereto were added ethylene bromohydrin (1.52 g) and potassium carbonate (2.0 g). The mixture was stirred at 70°-80° C. for 3 hours. The reaction mixture was poured into water and extracted with ethyl acetate. The extract was washed with water, dried over anhydrous magnesium sulfate and the solvent was distilled away under reduced pressure. The residue was subjected to column chromatography and eluted with chloroform-methanol to give 2-((3-methyl-4-(3-(N,N-bis(2-hydroxyethyl)amino)propylthio)- 2-pyridyl)methylthio)-1H-benzimidazole as a pale yellow oil.

reactant | 2-((3-Methyl-4-(3-aminopropylthio)-2-pyridyl)methylthio)-1H-benzimidazole | 2.0 g | CC=1C(=NC=CC1SCCCN)CSC1=NC2=C(N1)C=CC=C2 | C17H20N4S2
reactant | ethylene bromohydrin | 1.52 g | C(CO)Br | C2H5BrO
reactant | potassium carbonate | 2.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
reactant | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 2-((3-methyl-4-(3-(N,N-bis(2-hydroxyethyl)amino)propylthio)- 2-pyridyl)methylthio)-1H-benzimidazole | CC=1C(=NC=CC1SCCCN(CCO)CCO)CSC1=NC2=C(N1)C=CC=C2 | C21H28N4O2S2
